US07648986B2
Step 5: Preparation of N-[2-(1-benzothien-2-yl)pyrido[2,3-d]pyrimidin-4-yl]-N-(1H-indazol-5-yl)amine
A mixture of 2-(1-benzothien-2-yl)-4-chloropyrido[2,3-d]pyrimidine (18.2 mg, 0.06 mmol), 5-aminoindazole (40 mg, 0.3 mmol) and potassium carbonate (83 mg, 0.6 mmol) in dioxane (20 mL) was heated to 100° C. and continued for 24 h. After removal of the solvent, the crude product was purified by silica gel column chromatography (gradient from 20% to 80% EtOAc/hexane) to give the product (1.0 mg, 4.0%); HPLC/MS: (M+H)+ 395.2 m/z; Retention time (LC-MS)=2.75 min.

reactant | 2-(1-benzothien-2-yl)-4-chloropyrido[2,3-d]pyrimidine | 0.06 mmol, 18.2 mg | S1C(=CC2=C1C=CC=C2)C=2N=C(C1=C(N2)N=CC=C1)Cl | C15H8ClN3S
reactant | 5-aminoindazole | 0.3 mmol, 40 mg | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | potassium carbonate | 0.6 mmol, 83 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-[2-(1-benzothien-2-yl)pyrido[2,3-d]pyrimidin-4-yl]-N-(1H-indazol-5-yl)amine | 1.0 mg, 4.0% | S1C(=CC2=C1C=CC=C2)C=2N=C(C1=C(N2)N=CC=C1)NC=1C=C2C=NNC2=CC1 | C22H14N6S
